*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-08-18 20:33:44
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbn msbp lsbp vcmb lsbn tmsb0 tmsb1 tlsb0 vcasc outp outn vcc
XQ_1 \$49 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$50 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$51 msbp \$12 sub npn13G2 Nx=3
XQ_4 \$52 msbn \$13 sub npn13G2 Nx=3
XQ_5 \$53 lsbp \$14 sub npn13G2 Nx=3
XQ_6 \$54 lsbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$49 sub npn13G2 Nx=3
XQ_8 outn vcasc \$50 sub npn13G2 Nx=3
XQ_9 outp vcasc \$51 sub npn13G2 Nx=3
XQ_10 outn vcasc \$52 sub npn13G2 Nx=3
XQ_11 outp vcasc \$53 sub npn13G2 Nx=3
XQ_12 outn vcasc \$54 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.55u l=2.72u m=1
XR_14 vcmb lsbn sub rsil w=0.55u l=2.72u m=1
XR_15 vcmb msbp sub rsil w=0.55u l=2.72u m=1
XR_16 vcmb msbn sub rsil w=0.55u l=2.72u m=1
XR_17 tmsb0 \$10 sub rsil w=6.13u l=1.81u m=1
XR_18 tmsb0 \$11 sub rsil w=6.13u l=1.81u m=1
XR_19 tmsb1 \$12 sub rsil w=6.13u l=1.81u m=1
XR_20 tmsb1 \$13 sub rsil w=6.13u l=1.81u m=1
XR_21 tlsb0 \$14 sub rsil w=6.13u l=1.81u m=1
XR_22 tlsb0 \$15 sub rsil w=6.13u l=1.81u m=1
XR_23 outp vcc sub rsil w=1.13u l=6.44u m=1
XR_24 outn vcc sub rsil w=1.13u l=6.44u m=1
Cext_1 \$10 \$11 1.12197f
Cext_2 \$10 \$49 1.34159f
Cext_3 \$10 \$50 25.0893a
Cext_4 \$10 msbn 3.02149a
Cext_5 \$10 msbp 739.249a
Cext_6 \$10 sub 10.5988a
Cext_7 \$10 tmsb0 195.826a
Cext_8 \$10 vcasc 19.3436a
Cext_9 \$10 sub 3.25968f
Cext_10 \$11 \$49 6.34316a
Cext_11 \$11 \$50 1.33402f
Cext_12 \$11 msbn 728.544a
Cext_13 \$11 msbp 14.9832a
Cext_14 \$11 sub 4.15491a
Cext_15 \$11 tmsb0 194.676a
Cext_16 \$11 vcasc 10.7916a
Cext_17 \$11 sub 3.16961f
Cext_18 \$12 \$13 1.12197f
Cext_19 \$12 \$51 1.34159f
Cext_20 \$12 \$52 25.0893a
Cext_21 \$12 msbn 3.02149a
Cext_22 \$12 msbp 740.233a
Cext_23 \$12 sub 4.15491a
Cext_24 \$12 tmsb1 195.826a
Cext_25 \$12 vcasc 19.3436a
Cext_26 \$12 sub 3.262f
Cext_27 \$13 \$51 6.34316a
Cext_28 \$13 \$52 1.33402f
Cext_29 \$13 msbn 728.544a
Cext_30 \$13 msbp 1.90727a
Cext_31 \$13 sub 4.15491a
Cext_32 \$13 tmsb1 194.676a
Cext_33 \$13 vcasc 10.7916a
Cext_34 \$13 sub 3.16961f
Cext_35 \$14 \$15 1.12197f
Cext_36 \$14 \$53 1.34159f
Cext_37 \$14 \$54 25.0893a
Cext_38 \$14 lsbn 3.02149a
Cext_39 \$14 lsbp 723.976a
Cext_40 \$14 sub 4.15491a
Cext_41 \$14 tlsb0 195.826a
Cext_42 \$14 vcasc 19.3436a
Cext_43 \$14 sub 3.26821f
Cext_44 \$15 \$53 6.34316a
Cext_45 \$15 \$54 1.33402f
Cext_46 \$15 lsbn 728.544a
Cext_47 \$15 lsbp 1.90727a
Cext_48 \$15 sub 8.77114a
Cext_49 \$15 tlsb0 194.676a
Cext_50 \$15 vcasc 10.7916a
Cext_51 \$15 sub 3.16833f
Cext_52 \$49 msbp 50.8262a
Cext_53 \$49 outp 747.626a
Cext_54 \$49 sub 17.4504a
Cext_55 \$49 vcasc 752.151a
Cext_56 \$49 sub 2.13177f
Cext_57 \$50 msbn 50.8262a
Cext_58 \$50 outn 683.442a
Cext_59 \$50 outp 66.8713a
Cext_60 \$50 sub 21.455a
Cext_61 \$50 vcasc 761.82a
Cext_62 \$50 sub 2.12537f
Cext_63 \$51 msbp 50.8262a
Cext_64 \$51 outp 763.238a
Cext_65 \$51 sub 21.455a
Cext_66 \$51 vcasc 761.82a
Cext_67 \$51 sub 2.12537f
Cext_68 \$52 msbn 50.8262a
Cext_69 \$52 outn 683.442a
Cext_70 \$52 outp 66.8713a
Cext_71 \$52 sub 21.455a
Cext_72 \$52 vcasc 761.82a
Cext_73 \$52 sub 2.12537f
Cext_74 \$53 lsbp 50.8262a
Cext_75 \$53 outp 747.626a
Cext_76 \$53 sub 21.455a
Cext_77 \$53 vcasc 761.82a
Cext_78 \$53 sub 2.12537f
Cext_79 \$54 lsbn 50.8262a
Cext_80 \$54 outn 683.442a
Cext_81 \$54 sub 14.9923a
Cext_82 \$54 vcasc 745.563a
Cext_83 \$54 sub 2.13705f
Cext_84 lsbn lsbp 462.187a
Cext_85 lsbn msbn 30.3972a
Cext_86 lsbn msbp 65.9136a
Cext_87 lsbn sub 29.2999a
Cext_88 lsbn tlsb0 77.3788a
Cext_89 lsbn vcmb 135.073a
Cext_90 lsbp msbn 421.629a
Cext_91 lsbp msbp 54.7055a
Cext_92 lsbp tlsb0 77.3788a
Cext_93 lsbp tmsb1 1.45438a
Cext_94 lsbp vcmb 9.17654a
Cext_95 msbn msbp 703.485a
Cext_96 msbn tmsb0 77.5884a
Cext_97 msbn tmsb1 137.274a
Cext_98 msbn vcmb 8.22551a
Cext_99 msbp sub 22.6391a
Cext_100 msbp tmsb0 321.655a
Cext_101 msbp tmsb1 260.15a
Cext_102 msbp vcmb 8.22551a
Cext_103 outn outp 1.28547f
Cext_104 outn sub 130.81a
Cext_105 outn vcasc 152.2a
Cext_106 outn vcc 1.8612f
Cext_107 outp sub 168.286a
Cext_108 outp vcasc 242.871a
Cext_109 outp vcc 41.6238a
Cext_110 sub tlsb0 9.6918a
Cext_111 sub tmsb0 10.5322a
Cext_112 sub vcasc 372.164a
Cext_113 sub vcc 783.703a
Cext_114 sub vcmb 933.106a
Cext_115 sub lsbn 5.26557f
Cext_116 sub lsbp 3.83967f
Cext_117 sub msbn 5.93928f
Cext_118 sub msbp 6.46486f
Cext_119 sub outn 11.9297f
Cext_120 sub outp 10.9446f
Cext_121 sub sub 44.85f
Cext_122 sub tlsb0 4.43808f
Cext_123 sub tmsb0 4.43698f
Cext_124 sub tmsb1 4.41627f
Cext_125 sub vcasc 7.39782f
Cext_126 sub vcc 8.46557f
Cext_127 sub vcmb 10.0304f
XCdeg_r0 \$10 \$11 cap_cmim w=3.67u l=3.67u
XCdeg_r1 \$12 \$13 cap_cmim w=3.67u l=3.67u
XCdeg_r2 \$14 \$15 cap_cmim w=3.67u l=3.67u
.ENDS pam4drv_pam4_lay
